US04521419
1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester, m.p. 153°-154° C. (3.3 g) was reacted with 3-methoxybenzaldehyde (5.52 g) in methanol (145 g) in the presence of sodium methoxide (2.97 g) under stirring at reflux temperature for 144 hours. After cooling the precipitate was filtered and treated with formic acid and then with water: the crude compound was recovered by filtration, washed with water until neutral and crystallized from CH2Cl2 /methanol to give 2.73 g of 3-(3-methoxy-benzylidene)-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid, m.p. 310°-312° C., NMR (CF3COOD) δ ppm: 3.42 (br) (4H, cyclopentane protons), 4.11 (s) (3H, OCH3), 7.2-7.6 (m) (4H, phenyl protons), 7.61 (br) (1H, =CH--), 8.41 (d) (1H, C-5 proton), 9.11 (d.d) (1H, C-6 proton), 10.20 (d) (1H, C-8 proton).

reactant | 1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=2N(C(C3=C(N2)CCC3)=O)C1 | C13H12N2O3
reactant | 3-methoxybenzaldehyde | 5.52 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | sodium methoxide | 2.97 g | C[O-].[Na+]
solvent | methanol | 145 g | CO | CH4O
product | 3-(3-methoxy-benzylidene)-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid | 2.73 g | COC=1C=C(C=C2CCC3=C2N=C2N(C3=O)C=C(C=C2)C(=O)O)C=CC1 | C20H16N2O4
